US09029409B2
To a solution of 1-methyl-6-oxo-5-(5-phenyl-4,5-dihydroisoxazol-3-yl)-1,6-dihydropyridazine-3-carboxylic acid (150 mg, 0.501 mmol, Preparation #34) in DMF (4 mL) was added (4-fluoro-3-methoxyphenyl)methanamine (93 mg, 0.601 mmol, WO 2008/083056), N-ethyl-N-isopropylpropan-2-amine (194 mg, 1.504 mmol, Spectrochem) and followed by HATU (286 mg, 0.752 mmol, Molekule). The reaction mixture was stirred at RT for 16 h. and was quenched with ice cold water (10 mL). The product was extracted with EtOAc (3×20 mL). The combined organic layers were dried over sodium sulphate and evaporated to dryness under vacuum. The residue obtained was purified by silica gel column chromatography by eluenting with 40-60% EtOAc in hexane. The relevant fractions containing the product were combined and evaporated under reduced pressure to afford N-(4-fluoro-3-methoxybenzyl)-1-methyl-6-oxo-5-(5-phenyl-4,5-dihydroisoxazol-3-yl)-1,6-dihydropyridazine-3-carboxamide 90 mg, (41.1%) as pale yellow solids. 1H NMR (400 MHz, DMSO) δ 9.159-9.127 (m, 1H), 8.143 (s, 1H), 7.422-7.331 (m, 5H), 7.167-7.117 (m, 2H), 6.886-6.849 (m, 1H), 5.812-5.763 (m, 1H), 4.436-4.420 (d, J=6.4 Hz, 2H), 3.964-3.892 (m, 1H) 3.819 (s, 3H), 3.781 (s, 3H), 3.508-3.443 (m, 1H). MS m/z 437.3 (M+H)+;

reactant | 1-methyl-6-oxo-5-(5-phenyl-4,5-dihydroisoxazol-3-yl)-1,6-dihydropyridazine-3-carboxylic acid | 0.501 mmol, 150 mg | CN1N=C(C=C(C1=O)C1=NOC(C1)C1=CC=CC=C1)C(=O)O | C15H13N3O4
reactant | (4-fluoro-3-methoxyphenyl)methanamine | 0.601 mmol, 93 mg | FC1=C(C=C(C=C1)CN)OC | C8H10FNO
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.504 mmol, 194 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.752 mmol, 286 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(4-fluoro-3-methoxybenzyl)-1-methyl-6-oxo-5-(5-phenyl-4,5-dihydroisoxazol-3-yl)-1,6-dihydropyridazine-3-carboxamide | 90 mg, 41.1% | FC1=C(C=C(CNC(=O)C2=NN(C(C(=C2)C2=NOC(C2)C2=CC=CC=C2)=O)C)C=C1)OC | C23H21FN4O4
